US06562978B1
1-tert-Butoxycarbonyl-4-(1H-1,2,4-triazol-1-ylmethyl)piperidine
To a solution of 1-tert-butoxycarbonyl-piperidin-4-methanol (1.08 g, 5.0 mmol) and diisopropylethylamine (2.6 mL, 15 mmol) in dry dichloromethane (30 mL) was added anhydrous trifluoromethanesulfonic acid (1.0 mL, 6.0 mmol) at −78° C., and the mixture was stirred for 1 minute under iced cooling. The mixture was cooled to −78° C. To the reaction mixture were added 1H-1,2,4-triazole (1.04 g, 15 mmol) and THF (20 mL), and the mixture was stirred at room temperature for 6 hours. To the reaction mixture was added a saturated aqueous solution of sodium hydrogencarbonate, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The residue was subjected to silica gel column chromatography (50 g, ethyl acetate/ethanol=1/0 to 20/1), and recrystallization to give the titled compound as pale yellow crystals (473 mg, 36%).

reactant | 1-tert-butoxycarbonyl-piperidin-4-methanol | 5.0 mmol, 1.08 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CO | C11H21NO3
reactant | diisopropylethylamine | 15 mmol, 2.6 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoromethanesulfonic acid | 6.0 mmol, 1.0 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | 1H-1,2,4-triazole | 15 mmol, 1.04 g | N1N=CN=C1 | C2H3N3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-tert-Butoxycarbonyl-4-(1H-1,2,4-triazol-1-ylmethyl)piperidine | 473 mg, 36% | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1N=CN=C1 | C13H22N4O2
